US04110351
To 19.5 g (0.06 mols) of 5-tetradecyloxy-2-furoic acid in 500 ml of methanol is added 6 g (0.111 mole) of sodium methoxide. The mixture is refluxed, and the methanol is distilled off being replaced by water. The aqueous solution is cooled, the precipitate collected and dried to give 5-tetradecyloxy-2-furoic acid sodium salt, M.P. 240°-245° C (dec.).

reactant | 5-tetradecyloxy-2-furoic acid | 0.06 mols, 19.5 g | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C19H32O4
reactant | sodium methoxide | 0.111 mole, 6 g | C[O-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 5-tetradecyloxy-2-furoic acid sodium salt | [Na+].C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)[O-] | InChI=1S/C19H32O4.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-16-22-18-15-14-17(23-18)19(20)21;/h14-15H,2-13,16H2,1H3,(H,20,21);/q;+1/p-1
